US07557103B2
Preparation of 2-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-3-methyl-benzo[b]thiophen-5-ol
In an oven dried, nitrogen purged pressure tube, 0.040 g (0.105 mmol) of 8-(1-ethyl-propyl)-3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine, 0.012 g (0.21 mmol) of KOH, and 0.019 g (0.210 mmol) of N,N-dimethylethanolamine are combined in 1 mL of dry DMSO and heated at 90° C. After approximately 24 hours, the reaction mixture is diluted with 20 mL of ethyl acetate and 20 mL of water. The layers are separated and the aqueous is extracted 3×50 mL of ethyl acetate, dried (MgSO4), and concentrated under vacuum. The crude mixture is purified by chromatography using Hexane/Ethyl Acetate. The product containing fractions are combined to obtain 0.010 g of the title compound, 25% yield. MS, ES+=380.1 (M+1); 1H NMR (DMSO-d6)=9.518 (s, 1H); 7.760-7.730 (s, 1H); 7.129 (s, 1H); 6.980 (s, 1H); 3.150-3.050 (m, 1H); 2.421 (s, 3H); 2.336 (s, 3H); 2.103 (s, 3H); 1.850-1.760 (m, 4H); 0.789-0.753 (m, 6H) ppm.

reactant | 8-(1-ethyl-propyl)-3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.105 mmol, 0.040 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=C(S2)C=CC(=C1)F)C | C22H24FN3S
reactant | KOH | 0.21 mmol, 0.012 g | [OH-].[K+]
reactant | N,N-dimethylethanolamine | 0.210 mmol, 0.019 g | CN(CCO)C | C4H11NO
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 2-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-3-methyl-benzo[b]thiophen-5-ol | 0.010 g, 25% yield | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=C(S2)C=CC(=C1)O)C | C22H25N3OS
